US07384952B2
A mixture of tert-butyl 4-fluorobenzoate (2.14 g) and 1-(2-aminoethyl)pyrrolidine (1 mL) is stirred at 120° C. for one day. After cooling, to the reaction mixture is added water and the mixture is extracted with ethyl acetate (×2). The extract is concentrated by centrifugal concentrator and the residue is purified by flash column chromatography on NH-silica gel (Solvent; n-hexane:ethyl acetate=8:1→4:1) to give tert-butyl 4-[[2-(1-pyrrolidinyl)ethyl]amino]benzoate (1.62 g, yield; 51%) as an oil. MS (APCI) m/z: 291 [M+H]+

reactant | tert-butyl 4-fluorobenzoate | 2.14 g | FC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13FO2
reactant | 1-(2-aminoethyl)pyrrolidine | 1 mL | NCCN1CCCC1 | C6H14N2
solvent | water | O | H2O
product | tert-butyl 4-[[2-(1-pyrrolidinyl)ethyl]amino]benzoate | 1.62 g, yield; 51% | N1(CCCC1)CCNC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C17H26N2O2
